Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
thombocytopenia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female with h/o ITP requiring
transfusions in the past who went to her PCP for ___ regular visit
and reported bruising for the past ___ weeks. Her platelet count
was checked and it was low - ? 20s per patient. 
She had three epiodes of epistaxis last one on ___. No
bleeding when she brushed her teeth but when she had her teeth
cleaned two weeks ago, she experienced a lot of bleeding. She 
has
early gingivitis. No hematuria. No blood in her stools. Her
rectal in her PCP's office was negative for blood. She has had a
frontal headache for the past week but she thought it was
allergies. She went to ___ where she also reported a
headache. She was given Tylenol.Her platelet count there was 19.
Her head CT was negative for an acute process. She received a
platelet transfusion and was referred to ___. The heme
consult fellow was consulted about the patient and reported no
need for platelet transfusion since not actively bleeding ad no
wet purpura. The initial transfusion should be completed but 
then
no more after that. Atrius oncology Dr. ___ 
recommended
giving decadron 40 mg daily x 4 days. 
VS on presentation  to the ED: 4 |97.1 |58 |138/77 |18 |97% RA 
She was given decadron 40 mg in the ED.
ROS:
REVIEW OF SYSTEMS:
CONSTITUTIONAL:  As per HPI
HEENT:  ___ mild headache without visual changes All normal
RESPIRATORY:  [X] All normal
CARDIAC:  [X] All normal
GI:  [X]WNL
GU:  [X] All normal
SKIN:  [X] All normal
MUSCULOSKELETAL:  [X] All normal
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [+]  Easy bruising and bleeding as above
PSYCH:  [X] All normal
All other systems negative except as noted above

 
Past Medical History:
Rectal cancer ___- radiation and chemo- NER
ITP - one episode in ___ where her PLTs were 9K and she 
received
4 bags of platelets. She refused steroids at that time. 
C-section in ___
S/p surgery on L foot in the ___

 
Social History:
___
Family History:
Her mother has severe CAD at age ___- ex smoker. Her father died
at ___ from emphysema. He never smoked but was a ___. No
family history of blood disorder. Her paternal GM had early 
stage
colon CA. Her maternal GF died of CA but she is not sure what
kind. Her maternal GM had lung cancer. She was heavy smoker. 

 
Physical Exam:
Vitals:  97.5 PO 134 / 72 R Lying 50 20 98 Ra 
GEN: NAD, comfortable appearing  
HEENT: ncat anicteric MMM -no mucosal bleeding
No nasal deviation
NECK:  supple
CV: s1s2 rrr, ___ holosystolic murmur best heard at ___
RESP: b/l ae no w/c/r  
ABD: +bs, soft, NT, ND, no guarding or rebound  
back:  No spinal tenderness
GU:  No CVAT 
EXTR:no c/c/e 2+pulses  
b/l varicose veins
DERM: Two 1 -2 cm ecchymoses present on LUE
NEURO: face symmetric speech fluent  
Independent steady gait
PSYCH: calm, cooperative and very pleasant 

 
Pertinent Results:
___ 09:00PM BLOOD WBC-7.4 RBC-4.15 Hgb-12.5 Hct-37.8 MCV-91 
MCH-30.1 MCHC-33.1 RDW-12.5 RDWSD-41.4 Plt Ct-28*
___ 07:45AM BLOOD WBC-3.7* RBC-4.76 Hgb-14.3 Hct-42.2 
MCV-89 MCH-30.0 MCHC-33.9 RDW-12.5 RDWSD-41.0 Plt Ct-30*
___ 07:45AM BLOOD Neuts-72* Bands-0 ___ Monos-2* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-2.66 AbsLymp-0.96* 
AbsMono-0.07* AbsEos-0.00* AbsBaso-0.00*
___ 09:00PM BLOOD ___ PTT-28.1 ___
___ 09:40AM BLOOD ___ PTT-28.2 ___
___ 09:40AM BLOOD Lupus-PND
___ 09:00PM BLOOD Glucose-88 UreaN-11 Creat-0.7 Na-143 
K-3.7 Cl-106 HCO3-26 AnGap-15
___ 09:00PM BLOOD ___
___ 09:40AM BLOOD HIV Ab-PND
 
Brief Hospital Course:
___ year old healthy female with a remote history of rectal 
cancer with no evidence of recurrence, a prior episode of ITP 
who presents with PLT count of 19 consistent with recurrent ITP. 
She was placed on steroids and seen by ___ hematology 
consultant who recommended discharge to home (PLTS 30 on DC), 
f/u CBC in 2 days, and outpatient hematology follow up with Dr. 
___ (patient's prior hematologist). HIV ab and Lupus 
anticoagulant was requested by hematology and is pending at 
discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 10 mg PO QPM 
2. melatonin 10 mg oral QHS:PRN 

 
Discharge Medications:
1.  Dexamethasone 40 mg PO DAILY Duration: 4 Doses  
2.  melatonin 10 mg oral QHS:PRN  
3.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ITP

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with low platelets, felt to be recurrent 
Immune thrombocytopenic purpura (ITP). You were started on 
steroids and will need to take for another 4 days. You were seen 
by ATrius hematologist and deemed safe to go home. You will need 
repeat CBC on ___ at ___ - ___ lab. 
Dr. ___ (from Atrius oncology) will follow up 
the result and be in touch with you for further instructions 
regarding the next lab check. Look out for new bleeding, 
bruinsing. Please avoid any contact sports or activites that 
risk falling or injury
 
Followup Instructions:
___